US09078444B2
To 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester (25 g) was added thioacetic acid (6 eq.) and triethylamine (200 μL) The solution was stirred at room temperature 2 drops of triethylamine were added. After stirring at room temperature for 24 hours, the mixture was poured in a mixture of water and ethyl acetate, extracted with ethyl acetate and washed with brine. The collected organic phases were dried over magnesium sulfate, filtered and the filtrate was evaporated under vacuo. The residue was purified by chromatography on silica gel (eluent: cyclohexane/dichloromethane) to give 4-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-mercapto-butyryl]-2-methyl-benzoic acid tert-butyl ester (3.78 g) 1H NMR (CDCl3, 400 MHz): δ=7.89 (d, J=8.8 Hz, 1 H), 7.72-7.79 (m, 2 H), 7.53-7.57 (m, 2 H), 7.35 (t, J=1.8 Hz, 1 H), 4.30 (d, J=18.3 Hz, 1 H), 3.97 (d, J=18.3 Hz, 1 H), 3.30 (s, 1 H), 2.59-2.65 (m, 3 H), 1.58-1.66 (m, 10 H), 1.56 ppm (s, 1 H).

reactant | 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester | 25 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H19Cl2F3O3
reactant | thioacetic acid | 6 eq. | C(C)(=S)O | C2H4OS
reactant | triethylamine | 200 μL | C(C)N(CC)CC | C6H15N
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-mercapto-butyryl]-2-methyl-benzoic acid tert-butyl ester | 3.78 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(CC(C(F)(F)F)(S)C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H21Cl2F3O3S
